*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

* \\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\            
* LM13700 Dual Operational Transconductance Amplifier                 
* \\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\                 
*
*                   Amplifier Bias Input
*                   | Diode Bias
*                   | | Positive Input
*                   | | | Negative Input
*                   | | | | Output
*                   | | | | | Negative power supply
*                   | | | | | | Buffer Input
*                   | | | | | | | Buffer Output
*                   | | | | | | | | Positive power supply
*                   | | | | | | | | |
.SUBCKT LM13700/NS  1 2 3 4 5 6 7 8 11
*
* Features:
* gm adjustable over 6 decades.
* Excellent gm linearity.
* Linearizing diodes.
* Wide supply range of +/-2V to +/-22V.
*
* Note:  This model is single-pole in nature and over-estimates
*       AC bandwidth and phase margin (stability) by over 2X.   
*       Although refinement may be possible in the future, please
*       use benchtesting to finalize AC circuit design.
* 
* Note: Model is for single device only and simulated
*       supply current is 1/2 of total device current.
*
******************************************************
* 
C1  6  4  4.8P
C2  3  6  4.8P
* Output capacitor  
C3  5  6  6.26P                                       
D1  2  4  DX
D2  2  3  DX
D3  11 21 DX
D4  21 22 DX
D5  1  26 DX
D6  26 27 DX
D7  5  29 DX
D8  28 5  DX
D10 31 25 DX
* Clamp for -CMR  
D11 28 25 DX                                        
* Ios source 
F1  4  3  POLY(1)   V6 1E-10 5.129E-2 -1.189E4 1.123E9 
F2  11 5  V2        1.022
F3  25 6  V3        1.0
F4  5  6  V1        1.022
* Output impedance 
F5  5  0  POLY(2)   V3 V7 0 0 0 0 1                  
G1  0  33 5         0 .55E-3
I1  11 6  300U
Q1  24 32 31        QX1
Q2  23 3  31        QX2
Q3  11 7  30        QZ
Q4  11 30 8         QY
V1  22 24 0V
V2  22 23 0V
V3  27 6  0V
V4  11 29 1.4
V5  28 6  1.2
V6  4  32 0V
V7  33 0  0V
.MODEL QX1 NPN (IS=5E-16     BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QX2 NPN (IS=5.125E-16 BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QY  NPN (IS=6E-15     BF=50)
.MODEL QZ  NPN (IS=5E-16     BF=266)  
.MODEL DX  D   (IS=5E-16)
.ENDS
*$



* \\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\            
* Experimental xx3080 derived from LM13700 Dual Operational Transconductance Amplifier  
* Warning: It's not from National Semiconductor               
* \\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\                 
*
*                   Amplifier Bias Input
*                   | Diode Bias
*                   | | Positive Input
*                   | | | Negative Input
*                   | | | | Output
*                   | | | | | Negative power supply
*                   | | | | | | Buffer Input
*                   | | | | | | | Buffer Output
*                   | | | | | | | | Positive power supply
*                   | | | | | | | | |
*.SUBCKT LM3080/NS  1   3 4 5 6    11

.SUBCKT LM3080/NS  in- in+ vee bias out vcc
*
* Features:
* gm adjustable over 6 decades.
* Excellent gm linearity.
* Linearizing diodes.
* Wide supply range of +/-2V to +/-22V.
*
* Note:  This model is single-pole in nature and over-estimates
*       AC bandwidth and phase margin (stability) by over 2X.   
*       Although refinement may be possible in the future, please
*       use benchtesting to finalize AC circuit design.
* 
* Note: Model is for single device only and simulated
*       supply current is 1/2 of total device current.
*
******************************************************
* 
C1  vee  in-  4.8P
C2  in+  vee  4.8P
* Output capacitor  
C3  out  vee  6.26P                                       
D1  2 in-	DX
D2  2 in+	DX
D3  vcc 21	DX
D4  21 22	DX
D5  bias 26	DX
D6  26 27	DX
D7  out  29	DX
D8  28 out	DX
D10 31 25	DX
* Clamp for -CMR  
D11 28 25	DX                                        
* Ios source 
F1  in-  in+	POLY(1)	V6 1E-10 5.129E-2 -1.189E4 1.123E9 
F2  vcc out	V2	1.022
F3  25 vee	V3	1.0
F4  out vee	V1	1.022
* Output impedance 
F5  out  0	POLY(2)	V3 V7 0 0 0 0 1                  
G1  0  33 out	0 .55E-3
I1  vcc vee	300U
Q1  24 32 31	QX1
Q2  23 in+ 31	QX2
*Q3  vcc 7 30	QZ
*Q4  vcc 30 8	QY
V1  22 24 0V
V2  22 23 0V
V3  27 vee 0V
V4  vcc 29 1.4
V5  28 vee 1.2
V6  in-  32 0V
V7  33 0  0V
.MODEL QX1 NPN (IS=5E-16     BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QX2 NPN (IS=5.125E-16 BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QY  NPN (IS=6E-15     BF=50)
.MODEL QZ  NPN (IS=5E-16     BF=266)  
.MODEL DX  D   (IS=5E-16)
.ENDS
*$
.subckt ca3080a In+ In- Vcc Vee Out bias
V1 Vcc 1 0
F1 Vcc 5 V1 1
D1 1 2 1v4
Q1 2 In- 4 0 n1
Q2 3 In+ 4 0 n1
Q3 4 bias Vee 0 n1
D2 bias Vee pn
D3 6 3 pn
D4 5 7 pn
Q4 Out 3 6 0 p1
Q5 Out 5 7 0 n1
D5 Vcc 6 1v4
D6 7 Vee 0v6
C1 Out Vee 3p
.model 0v6 D(Ron=20 Vfwd=0.6)
.model 1v4 D(Ron=20 Vfwd=1.4)
.model pn d(Is=1f Rs=18 Cjo=1p)
.model n1 npn(Is=1f Bf=65 Vaf=5k Rb=500 Rc=5 Re=15 Cjc=2p Cje=2p)
.model p1 pnp(Is=1f Bf=65 Vaf=5k Rb=500 Rc=5 Re=15 Cjc=1p Cje=3p)
.ends
*
* LM3080 derived from NTE996 datasheet by Robertugo_2005
.subckt lm3080 in- in+ vee bias out vcc
Q1 2 3 vcc 0 P
Q2 4 2 3 0 P
D1 vcc 3 D
Q3 2 in- 1 0 N
Q4 5 in+ 1 0 N
Q5 5 6 vcc 0 P
Q6 1 bias vee 0 N
D2 bias vee D
Q7 out 5 6 0 P
D3 vcc 6 D
Q8 out 4 7 0 N
Q9 4 7 vee 0 N
D4 7 vee D
.model D D(IS=1E-16)
.model N NPN
.model P PNP
.ends
*
.subckt ca3080 in- in+ vee bias out vcc
Q4 1 4 vcc 0 P
Q6 6 5 4 0 P
Q5 6 1 5 0 P
D3 vcc 4 D
D2 1 5 D
Q7 3 9 vcc 0 P
Q1 1 in- 2 0 N
Q2 3 in+ 2 0 N
Q3 2 bias vee 0 N
D1 bias vee D
Q8 out 3 8 0 P
D4 3 8 D
Q9 out 8 9 0 P
D5 vcc 9 D
Q10 out 7 10 0 N
Q11 7 10 vee 0 N
D6 10 vee D
.model D D
.model N NPN
.model P PNP
.ends
*
